Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([c:2]1[c:3]([O:4][CH:5]([CH3:6])[CH2:7][O:8][c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[c:15]2[c:16]([cH:17][cH:18]1)[cH:19][cH:20][cH:21][cH:22]2)=[O:23].[CH3:24][O:25][C:26](=[O:27])[C:28]([CH3:29])([CH3:30])[NH2:31]>>[C:1]([c:2]1[c:3]([O:4][CH:5]([CH3:6])[CH2:7][O:8][c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[c:15]2[c:16]([cH:17][cH:18]1)[cH:19][cH:20][cH:21][cH:22]2)(=[O:23])[NH:31][C:28]([C:26]([O:25][CH3:24])=[O:27])([CH3:29])[CH3:30],[OH:101][C:1]([c:2]1[c:3]([O:4][CH:5]([CH3:6])[CH2:7][O:8][c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[c:15]2[c:16]([cH:17][cH:18]1)[cH:19][cH:20][cH:21][cH:22]2)=[O:23].[CH3:24][O:25][C:26](=[O:27])[C:28]([CH3:29])([CH3:30])[NH2:31].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[c:3]([O:4][CH:5]([CH3:6])[CH2:7][O:8][c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[c:15]2[c:16]([cH:17][cH:18]1)[cH:19][cH:20][cH:21][cH:22]2)(=[O:23])[NH:31][C:28]([C:26]([O:25][CH3:24])=[O:27])([CH3:29])[CH3:30],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (31, 1), ([1, 23], 23), (303, 31.1), ([31.1, 31], 31), (23, [23, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
I[CH3:1].[O:2]=[C:3]1[CH2:4][CH2:5][NH:6][c:7]2[cH:8][cH:9][c:10]([Cl:11])[cH:12][c:13]2[N:14]1[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][N:6]1[CH2:5][CH2:4][C:3](=[O:2])[N:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[c:13]2[c:7]1[cH:8][cH:9][c:10]([Cl:11])[cH:12]2,[O:2]=[C:3]1[CH2:4][CH2:5][NH:6][c:7]2[cH:8][cH:9][c:10]([Cl:11])[cH:12][c:13]2[N:14]1[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[I:101][CH3:1]>>[CH3:1][N:6]1[CH2:5][CH2:4][C:3](=[O:2])[N:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[c:13]2[c:7]1[cH:8][cH:9][c:10]([Cl:11])[cH:12]2,SN2,"[(6, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[Mg+][CH3:1].[O:2]=[CH:3][c:4]1[cH:5][cH:6][c:7]([F:8])[cH:9][c:10]1[Cl:11]>>[CH3:1][CH:3]([OH:2])[c:4]1[cH:5][cH:6][c:7]([F:8])[cH:9][c:10]1[Cl:11],[O:2]=[CH:3][c:4]1[cH:5][cH:6][c:7]([F:8])[cH:9][c:10]1[Cl:11].[Mg+:101][CH3:1].[OH2:301]>>[CH3:1][CH:3]([OH:2])[c:4]1[cH:5][cH:6][c:7]([F:8])[cH:9][c:10]1[Cl:11],Grignard,"[([101, 1], 3), ([3, 2], 101), (301, 101), ([101, 2], 2), (2, 301.1), ([301.1, 301], 301)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[CH2:1][CH:2]1[CH2:3][CH2:4][N:5]([C:6]([O:7][C:8]([CH3:9])([CH3:10])[CH3:11])=[O:12])[CH2:13][CH2:14]1.[CH3:15][c:16]1[cH:17][c:18]([OH:19])[cH:20][c:21]([O:22][S:23](=[O:24])(=[O:25])[c:26]2[cH:27][cH:28][cH:29][cH:30][cH:31]2)[cH:32]1>>[CH2:1]([CH:2]1[CH2:3][CH2:4][N:5]([C:6]([O:7][C:8]([CH3:9])([CH3:10])[CH3:11])=[O:12])[CH2:13][CH2:14]1)[O:19][c:18]1[cH:17][c:16]([CH3:15])[cH:32][c:21]([O:22][S:23](=[O:24])(=[O:25])[c:26]2[cH:27][cH:28][cH:29][cH:30][cH:31]2)[cH:20]1,[CH3:15][c:16]1[cH:17][c:18]([OH:19])[cH:20][c:21]([O:22][S:23](=[O:24])(=[O:25])[c:26]2[cH:27][cH:28][cH:29][cH:30][cH:31]2)[cH:32]1.[OH:101][CH2:1][CH:2]1[CH2:3][CH2:4][N:5]([C:6]([O:7][C:8]([CH3:9])([CH3:10])[CH3:11])=[O:12])[CH2:13][CH2:14]1.c1ccccc1[P:301](c2ccccc2)c3ccccc3.[O:302]=[C:303]([N:304]=[N:305]C(=O)OCC)OCC>>[CH2:1]([CH:2]1[CH2:3][CH2:4][N:5]([C:6]([O:7][C:8]([CH3:9])([CH3:10])[CH3:11])=[O:12])[CH2:13][CH2:14]1)[O:19][c:18]1[cH:17][c:16]([CH3:15])[cH:32][c:21]([O:22][S:23](=[O:24])(=[O:25])[c:26]2[cH:27][cH:28][cH:29][cH:30][cH:31]2)[cH:20]1,Mitsunobu,"[(301, 305), ([305, 304], 304), (304, [304, 303]), ([303, 302], 302), (302, [302, 303]), ([303, 304], 19.1), ([19.1, 19], 19), (101, 301), ([301, 305], 305), (305, 101.1), ([101.1, 101], 101), (19, 1), ([1, 101], [101, 301])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[CH:1]([C:2]([O:3][CH2:4][CH2:5][CH2:6][CH3:7])=[O:8])[CH3:9].[O:10]=[CH:11][c:12]1[cH:13][cH:14][c:15]([OH:16])[cH:17][cH:18]1>>[CH:1]([C:2]([O:3][CH2:4][CH2:5][CH2:6][CH3:7])=[O:8])([CH3:9])[O:16][c:15]1[cH:14][cH:13][c:12]([CH:11]=[O:10])[cH:18][cH:17]1,[OH:101][CH:1]([C:2]([O:3][CH2:4][CH2:5][CH2:6][CH3:7])=[O:8])[CH3:9].[O:10]=[CH:11][c:12]1[cH:13][cH:14][c:15]([OH:16])[cH:17][cH:18]1.c1ccccc1[P:301](c2ccccc2)c3ccccc3.[O:302]=[C:303]([N:304]=[N:305]C(=O)OCC)OCC>>[CH:1]([C:2]([O:3][CH2:4][CH2:5][CH2:6][CH3:7])=[O:8])([CH3:9])[O:16][c:15]1[cH:14][cH:13][c:12]([CH:11]=[O:10])[cH:18][cH:17]1,Mitsunobu,"[(301, 305), ([305, 304], 304), (304, [304, 303]), ([303, 302], 302), (302, [302, 303]), ([303, 304], 16.1), ([16.1, 16], 16), (101, 301), ([301, 305], 305), (305, 101.1), ([101.1, 101], 101), (16, 1), ([1, 101], [101, 301])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
